US05173496
A mixture of 2-nitrobenzoic acid (5 g) and thionyl chloride (5 ml) was heated under reflux for 30 minutes and then concentrated in vacuo. The residue was dissolved in dry toluene (20 ml) and the volatile material was evaporated. This procedure was repeated. The 2-nitrobenzoyl chloride thus obtained was dissolved in methylene chloride (20 ml). This solution was then added to a solution of 3-(aminomethyl)pyridine (3.24 g) and triethylamine (3.03 g) in methylene chloride (50 ml) at 0° C. After the addition was complete, the reaction mixture was washed with water, dried (MgSO4) and evaporated to give 3-(N-(2-nitrobenzoyl)aminomethyl)pyridine as a solid of satisfactory purity and in essentially quantitative yield.

reactant | 2-nitrobenzoic acid | 5 g | [N+](=O)([O-])C1=C(C(=O)O)C=CC=C1 | C7H5NO4
reactant | thionyl chloride | 5 ml | S(=O)(Cl)Cl | Cl2OS
product | 2-nitrobenzoyl chloride | [N+](=O)([O-])C1=C(C(=O)Cl)C=CC=C1 | C7H4ClNO3
